US06300363B1
3-Amino-5-bromo-6-chloro-1-(ethoxycarbonyl)-2-(6-methylpyridine-2-carbonyl)indole
The title compounds were prepared according to the procedure described in step 2 of Example 1 from 4-chloro-2-(ethoxycarbonylamino)benzonitrile and 2-bromoacetyl-6-methylpyridine hydrobromide (H. Erlenmeyer, J. Jenni, and B. Prijs, J. Med. Pharm. Chem., 1961, 3, 561-566).

reactant | 4-chloro-2-(ethoxycarbonylamino)benzonitrile | ClC1=CC(=C(C#N)C=C1)NC(=O)OCC | C10H9ClN2O2
reactant | 2-bromoacetyl-6-methylpyridine hydrobromide | Br.BrCC(=O)C1=NC(=CC=C1)C
product | 3-Amino-5-bromo-6-chloro-1-(ethoxycarbonyl)-2-(6-methylpyridine-2-carbonyl)indole | NC1=C(N(C2=CC(=C(C=C12)Br)Cl)C(=O)OCC)C(=O)C1=NC(=CC=C1)C | C18H15BrClN3O3
